US07037909B2
The mixture of N-[2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)-phenyl]-acetamide (11.4 g, 39 mmol) in 3N aq.HCl (100 mL) was refluxed for 2 h and then concentrated under reduced pressure. The residue was lyophilized to give 2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)aniline dihydrochloride as gray solid quantitatively.

reactant | N-[2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)-phenyl]-acetamide | 39 mmol, 11.4 g | CC1=C(C=C(C(=C1)OCCN1CCOCC1)C)NC(C)=O | C16H24N2O3
reactant | HCl | 100 mL | Cl | ClH
product | 2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)aniline dihydrochloride | Cl.Cl.CC1=C(N)C=C(C(=C1)OCCN1CCOCC1)C | InChI=1S/C14H22N2O2.2ClH/c1-11-10-14(12(2)9-13(11)15)18-8-5-16-3-6-17-7-4-16;;/h9-10H,3-8,15H2,1-2H3;2*1H
